US05153187
In the same manner as described in Example 29-(1), (1R, 5R, 6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-carbapenam-3-carboxylic acid 4-nitrobenzyl ester is treated with (4S)-N-methyl-4-mercaptopyrrolidine-2-thione to give (1R, 5S, 6S)-2-[(4S)-N-methylpyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid 4-nitrobenzyl ester as an amorphous powder.

reactant | (1R, 5R, 6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-carbapenam-3-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2C([C@@H]([C@H]3N2C([C@@H]3[C@@H](C)O)=O)C)=O)C=C1 | C17H18N2O7
reactant | (4S)-N-methyl-4-mercaptopyrrolidine-2-thione | CN1C(C[C@@H](C1)S)=S | C5H9NS2
product | (1R, 5S, 6S)-2-[(4S)-N-methylpyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C([C@@H]([C@H]3N2C([C@@H]3[C@@H](C)O)=O)C)S[C@H]3CC(N(C3)C)=S)C=C1 | C22H25N3O6S2
